US08242145B2
Step 1: {4-[2-(2-Oxo-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-biphenyl-2-yl}-acetic acid methyl ester
Prepared according to the procedure described in Example 7, Step 1, using the following starting materials: {2-bromo-5-[2-(2-oxo-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid methyl ester and phenylboronic acid.

reactant | {2-bromo-5-[2-(2-oxo-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid methyl ester | COC(CC1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(OCC1)=O)Br)=O | C20H17BrF3NO5
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | {4-[2-(2-Oxo-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-biphenyl-2-yl}-acetic acid methyl ester | COC(CC1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(OCC1)=O)C1=CC=CC=C1)=O | C26H22F3NO5
